US04665094
Step A: Preparation of (S)-2-(4-(3-(1, 1-dimethylethyl)-2-phenyl-5-oxazolidinylmethoxy)phenyl)ethanol
4-(2-Hydroxyethyl)phenol (2.5 g, 18 mmol) was dissolved in 37 ml DMF then NaH (60% in mineral oil) (0.72 g, 18 mmol) was added while stirring under N2 atmosphere. After the evolution of H2 ceased, (S)-2-phenyl-5-tosyloxymethyl-3-(1,1-dimethylethyl) oxazolidine (7.0 g, 18 mmol) in 25 ml DMF was added and the reaction mixture was heated at 115°-120° C. for 14 hours. The solvent was evaporated in vacuo. A sodium carbonate solution (100 ml, 20% saturated) was added to the residue and the mixture was extracted with CHCl3 (150 ml then 100 ml). The chloroform was removed in vacuo and the residue was used directly in the next step without further purification.

reactant | 4-(2-Hydroxyethyl)phenol | 18 mmol, 2.5 g | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | NaH | 18 mmol, 0.72 g | [H-].[Na+]
reactant | (S)-2-phenyl-5-tosyloxymethyl-3-(1,1-dimethylethyl) oxazolidine | 18 mmol, 7.0 g | C1(=CC=CC=C1)[C@@H]1OC(CN1C(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C21H27NO4S
solvent | DMF | 37 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (S)-2-(4-(3-(1, 1-dimethylethyl)-2-phenyl-5-oxazolidinylmethoxy)phenyl)ethanol | CC(C)(C)N1[C@@H](OC(C1)COC1=CC=C(C=C1)CCO)C1=CC=CC=C1 | C22H29NO3
